US04281186
N-acrylyl-N'-(2-chloroethyl)urea
A mixture of 71.1 g (1.0 mole) acrylamide, 0.5 g triethylamine, 0.5 g 2,6-ditert-butyl-4-methylphenol and 250 ml benzene is mixed with 110.8 g (1.05 mole) 2-chloroethyl isocyanate and heated in an autoclave over a period of 10 hours to 110° C. The finely crystalline precipitate obtained on cooling is filtered off. 140 g of substance is so obtained. It is recrystallized from 700 ml acetonitrile to yield 115 g (0.65 mole=65% of theory) white crystal needles having a melting point between 156° and 158° C.

reactant | acrylamide | 1.0 mole, 71.1 g | C(C=C)(=O)N | C3H5NO
reactant | triethylamine | 0.5 g | C(C)N(CC)CC | C6H15N
reactant | 2,6-ditert-butyl-4-methylphenol | 0.5 g | C(C)(C)(C)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C15H24O
reactant | 2-chloroethyl isocyanate | 1.05 mole, 110.8 g | ClCCN=C=O | C3H4ClNO
solvent | benzene | 250 ml | C1=CC=CC=C1 | C6H6
product | N-acrylyl-N'-(2-chloroethyl)urea | C(C=C)(=O)NC(=O)NCCCl | C6H9ClN2O2
